US04225533
To 10 ml DMF is added 0.88 g 3-(2,2,2-trifluoroethoxy)-2,2-dimethylcyclopropanecarboxylic acid (4.14 mmol) and 1.146 g potassium carbonate (8.29 mmol), after which is added 1.2 g 4-fluoro-3-phenoxybenzyl bromide. This mixture is stirred under nitrogen for 15 hours. The reaction mixture is extracted with ether and the ether phase is washed with water (3×) and brine, and dried over sodium sulfate. The solvent is then removed to yield 4-fluoro-3-phenoxybenzyl 3-(2,2,2-trifluoroethoxy)-2,2-dimethylcyclopropanecarboxylate.

reactant | 3-(2,2,2-trifluoroethoxy)-2,2-dimethylcyclopropanecarboxylic acid | 4.14 mmol, 0.88 g | FC(COC1C(C1C(=O)O)(C)C)(F)F | C8H11F3O3
reactant | potassium carbonate | 8.29 mmol, 1.146 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluoro-3-phenoxybenzyl bromide | 1.2 g | FC1=C(C=C(CBr)C=C1)OC1=CC=CC=C1 | C13H10BrFO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-fluoro-3-phenoxybenzyl 3-(2,2,2-trifluoroethoxy)-2,2-dimethylcyclopropanecarboxylate | FC(COC1C(C1C(=O)OCC1=CC(=C(C=C1)F)OC1=CC=CC=C1)(C)C)(F)F | C21H20F4O4
